US07135467B2
A solution of 5-benzyloxy-2-methanesulfonyl-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (1.00 g, 2.73 mmol) and 3-methyl-1H-[1,2,4]triazole (0.272 g, 3.27 mmol) in dry N,N-dimethylformamide (10 ml) at 0° C. was treated with sodium hydride (0.16 g of a 60% dispersion in mineral oil, 4.0 mmol) and the resulting mixture was stirred at 0° C. for 30 min and at 24° C. for another 30 min. The reaction mixture was then quenched with acetic acid (0.2 ml) and the solvent was evaporated in vacuo. The residue was dissolved in ethyl acetate, washed with saturated sodium bicarbonate, brine and dried over anhydrous magnesium sulfate. Evaporation of the solvent and chromatography on silica gel (elution toluene-acetone 90:10 to 85:15) first gave 0.358 g (35% yield) of 5-benzyloxy-1-methyl-2-(3-methyl-[1,2,4]triazol-1-yl)-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester as a clear oil. 1HNMR 400 MHz (CDCl3) δ (ppm): 1.34 (3H, t, J=7.1 Hz, CH3), 2.51 (3H, s, CH3), 3.73 (3H, s, NCH3), 4.37 (2H, q, J=7.1 Hz, CH2), 5.37 (2H, s, OCH2), 7.40 (3H, m, aromatics), 7.50 (2H, m, aromatics), 8.71 (1H, s, CH). HRMS (FAB POS) calculated for C18H20N5O4 [M+H+]: 370.14. found: 370.14. The following fractions then gave 0.395 g (39% yield) of 5-benzyloxy-1-methyl-2-(5-methyl-[1,2,4]triazol-1-yl)-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester as a white solid. 1HNMR 400 MHz (CDCl3) δ (ppm): 1.33 (3H, t, J=7.0 Hz, CH3), 2.67 (3H, s, CH3), 3.52 (3H, s, NCH3), 4.37 (2H, q, J=7.0 Hz, CH2), 5.41 (2H, s, OCH2), 7.40 (3H, m, aromatics), 7.51 (2H, m, aromatics), 8.00 (1H, s, CH). HRMS (FAB POS) calculated for C18H20N5O4 [M+H+]: 370.14. found: 370.14.

reactant | 5-benzyloxy-2-methanesulfonyl-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 2.73 mmol, 1.00 g | C(C)OC(=O)C=1N=C(N(C(C1OCC1=CC=CC=C1)=O)C)S(=O)(=O)C | C16H18N2O6S
reactant | 3-methyl-1H-[1,2,4]triazole | 3.27 mmol, 0.272 g | CC1=NNC=N1 | C3H5N3
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-1-methyl-2-(3-methyl-[1,2,4]triazol-1-yl)-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.358 g, 35% yield | C(C)OC(=O)C=1N=C(N(C(C1OCC1=CC=CC=C1)=O)C)N1N=C(N=C1)C | C18H19N5O4
